US06995144B2
3-[4-Hydroxy-4-[(2-fluorophenyl)ethynyl)piperidino]methyl-1H-pyridin-2-one
After then adding 253 mg of the 4-hydroxy-4-[(2-fluorophenyl)ethynyl]piperidine hydrochloride to 10 ml of dichloromethane, 158 mg of 2-oxo-1,2-dihydropyridine-3-carboxaldehyde was added and the mixture was stirred for 10 minutes at room temperature. Next, 315 mg of sodium triacetoxyborohydride was added and the mixture was stirred overnight at room temperature. Saturated aqueous sodium bicarbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. After drying the organic layer over magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography to obtain the title compound (32 mg, 10% yield).

reactant | 4-hydroxy-4-[(2-fluorophenyl)ethynyl]piperidine hydrochloride | 253 mg | Cl.OC1(CCNCC1)C#CC1=C(C=CC=C1)F
reactant | 2-oxo-1,2-dihydropyridine-3-carboxaldehyde | 158 mg | O=C1NC=CC=C1C=O | C6H5NO2
reactant | sodium triacetoxyborohydride | 315 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-[4-Hydroxy-4-[(2-fluorophenyl)ethynyl)piperidino]methyl-1H-pyridin-2-one | 32 mg, 10% yield | OC1(CCN(CC1)CC=1C(NC=CC1)=O)C#CC1=C(C=CC=C1)F | C19H19FN2O2
